US05834482
9-(3-Chloro-1-propyl)-3-(3-methyl-1,2,4-oxadiazol-5-yl)-β-carboline (Compound 25)
To a solution of 3-(3-methyl-1,2,4-oxadiazol-5-yl)-β-carboline (2.00 g, 0.008 mol) in anhydrous DMF (50 mL) was added 50% sodium hydride in mineral oil (0.42 g, 0.01 mol). The mixture was stirred for 1 h at room temperature, and then carefully added to a solution of 1-bromo-3-chloropropane (1.39 g, 0.0088 mol) in anhydrous DMF (150 mL). The resulting mixture was stirred at ambient temperature over night. The reaction mixture was concentrated in vacuo, and the crude product was purified on a silica gel column (Eluent: CH2Cl2 /methanol (9:1)) to give the title compound 2.11 g (81%). M.p. 180°-185° C.

reactant | 3-(3-methyl-1,2,4-oxadiazol-5-yl)-β-carboline | 0.008 mol, 2.00 g | CC1=NOC(=N1)C=1N=CC=2NC3=CC=CC=C3C2C1 | C14H10N4O
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 0.0088 mol, 1.39 g | BrCCCCl | C3H6BrCl
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 9-(3-Chloro-1-propyl)-3-(3-methyl-1,2,4-oxadiazol-5-yl)-β-carboline | 2.11 g, 81% | ClCCCN1C2=CC=CC=C2C=2C=C(N=CC12)C1=NC(=NO1)C | C17H15ClN4O
